US07622583B2
A solution of 4-chloro-N-[5-chloro-2-(3-oxo-1,3-dihydro-isobenzofuran-1-yl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide in 3 mL HCl (4 M in dioxane) and 1 mL water was refluxed for 2 h. After cooling to room temperature, the mixture was concentrated and the residue was purified via preparative TLC (50% EtOAc in hexane) to provide 11 mg of 4-chloro-N-[5-chloro-2-(3-oxo-1,3-dihydro-isobenzofuran-1-yl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide as an off white solid. MS m/ z 503.3 (M+H).

reactant | 4-chloro-N-[5-chloro-2-(3-oxo-1,3-dihydro-isobenzofuran-1-yl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C1OC(C2=CC=CC=C12)=O)C(F)(F)F | C22H15Cl2F3N2O5S
solvent | HCl | 4 M, 3 mL | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 4-chloro-N-[5-chloro-2-(3-oxo-1,3-dihydro-isobenzofuran-1-yl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | 11 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C1OC(C2=CC=CC=C12)=O)C(F)(F)F | C20H11Cl2F3N2O4S
